US07786115B2
A suspension of N-cyclopropyl-4-methyl-3-nitrobenzamide (22.9 g) and 10% palladium on carbon (2 g) in ethanol (500 ml) was agitated under a hydrogen atmosphere for 16 hours. The reaction mixture was filtered through diatomaceous earth (Celite®) and the filtrate evaporated to dryness to give 3-amino-N-cyclopropyl-4-methylbenzamide as a colourless solid (17.1 g); NMR Spectrum: (DMSOd6) 0.53 (m, 2H), 0.65 (m, 2H), 2.07 (s, 3H), 2.80 (m, 1H), 6.92 (m, 2H), 7.06 (d, 1H), 8.09 (d, 1H); Mass Spectrum: M+H+ 191.

reactant | N-cyclopropyl-4-methyl-3-nitrobenzamide | 22.9 g | C1(CC1)NC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C11H12N2O3
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-amino-N-cyclopropyl-4-methylbenzamide | 17.1 g | NC=1C=C(C(=O)NC2CC2)C=CC1C | C11H14N2O
